US08283353B2
4′-[(2,4-dimethyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
A mixture of 4′-[(2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (1 g), methyl iodide (0.19 mL), potassium carbonate (0.41 g) and N,N-dimethylformamide (10 mL) was stirred at room temperature for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with 5% aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.67 g, 67%).

reactant | 4′-[(2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 1 g | CC1=NN2C(NC(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)=N1 | C23H21N5O
reactant | methyl iodide | 0.19 mL | CI | CH3I
reactant | potassium carbonate | 0.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-[(2,4-dimethyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.67 g, 67% | CC1=NN2C(N(C(C(=C2CCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)=O)C)=N1 | C24H23N5O
